2147-03-28 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hyperkalemic to 6.5 (no EKG changes), to get HD [**3-28**]
   - midline replaced
   - continued with baseline hypotension, tried to place a-line -> failed
   - continued hypercarbia, pt somnolent but arousable, tried on CPAP
   (vent) with adequate O2sats at 30%
   - CT Chest -> likely viral etiology
   - pt becoming more combative overnight, venous gases stable, refusing
   to take PO meds
   - psych rec'd d/c Pimozine/Cogentin/Cymbalta
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-3-27**] 04:59 AM
   Meropenem - [**2147-3-27**] 05:25 AM
   Metronidazole - [**2147-3-28**] 02:19 AM
   Ciprofloxacin - [**2147-3-28**] 04:29 AM
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2147-3-27**] 03:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-3-28**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 82 (71 - 106) bpm
   BP: 86/34(47) {71/22(28) - 135/77(89)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 78 kg
             Total In:
                                                                    400 mL
                                                                    300 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    300 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 226 (226 - 310) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 20 cmH2O
   SpO2: 89%
   ABG: 7.26/74/50/33/2
   Ve: 3.9 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General: Somnolent and agitated at times
   HEENT: Sclera anicteric, dry MM, oropharynx clear, no evidence of
   conjuntival irritation, no signs of thrush, no oropharynx
   cobblestoning
   Neck: supple, JVP difficult to assess due to habitus, no LAD, engorged
   chest wall veins
   Lungs: wheezes in lower lungs, diffuse coarse crackles
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, tender to deep palpation diffusely, bowel sounds
   present, no rebound tenderness or guarding,
   Ext: Warm, well perfused, no clubbing, cyanosis or edema
   Labs / Radiology
   268 K/uL
   9.8 g/dL
   93
   8.0 mg/dL
   33 mEq/L
   5.4 mEq/L
   32 mg/dL
   93 mEq/L
   139 mEq/L
   30.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2147-3-23**]  10:36 AM
                             [**2147-3-24**]  05:05 AM
                             [**2147-3-24**]  03:50 PM
                             [**2147-3-27**]  02:46 AM
                             [**2147-3-27**]  11:04 AM
                             [**2147-3-27**]  03:11 PM
                             [**2147-3-27**]  10:00 PM
                             [**2147-3-27**]  10:11 PM
                             [**2147-3-28**]  01:18 AM
                             [**2147-3-28**]  05:30 AM
   WBC
   7.1
   7.2
   7.3
   Hct
   31.0
   32.1
   30.9
   Plt
   293
   307
   268
   Cr
   5.5
   5.6
   8.0
   TCO2
   34
   40
   35
   36
   36
   35
   Glucose
   136
   113
   80
   93
   Other labs: Differential-Neuts:77.0 %, Lymph:12.9 %, Mono:6.0 %,
   Eos:3.7 %, Lactic Acid:0.5 mmol/L, Ca++:9.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:6.7 mg/dL
   Assessment and Plan
   # Respiratory failure: Hx of COPD, Asthma, and OSA: Hypoxia: Although
   patient responds to narcan, opiate overdose is unlikely given that pt
   only received 1 mg morphine on presentation. Given new fever perhaps
   this could be hypercarbic respiratory failure in the setting of
   pulmonary infection or chemical pneumonitis after emesis earlier during
   the day. Pt likely very hypercarbic at baseline given body habitus and
   obstructive/restrictive lung disease.  Pt hypoventilates even with
   CPAP.   Likely represents pt
s baseline respiratory status.
   - limit amount of medications -> d/c narcan
   - f/u blood and sputum culture
   - hold sedating meds, psych rec
d d/c Cogentin/Pimozide/Cymbalta
   - Last PFT in [**9-/2146**]; moderate to severe proportionate decrease in
   flows and volumes with a strong bronchodilator response. Normal
   diffusion capacity. Features suggestive of poorly controlled asthma
   associated with obesity related ventillatory restriction.
   - Continue [**Name (NI) 4211**], [**Name (NI) 4348**]  (pt has difficulty cooperating with meds)
   - Albuterol PRN
   - pt intermittently refusing CPAP [**3-6**] increased anxiety
   - Will titrate BiPAP for Sleep eval
   .
   # Altered mental status: multifactorial, combination of hypercarbic
   respiratory failure and CNS medications.  Will attempt to increase
   minute ventilation to reduce hypercarbia and limit CNS active meds.
   Likely at baseline mental status, will need to discuss with family to
   determine.
   - f/u psych recs, d/c
d Cogentin/Pimozide/Cymbalta
   - limit medications
   - will have Sleep eval
   .
   # Abdominal pain/Colitis: Followed by GI, unlikely infectious source
   and pt not complaining of abdominal pain.  No diarrhea.
   - d/c ABX today ([**3-28**])
   - continue bowel regimen as tolerated
   .
   # CVID : Patient has been on IVIG therapy in the past but stopped this
   treatment approximately 2 years ago. Recent infusion had to be held as
   pt spiked temperature. Fever could be also due to IVIG transfusion,
   however it persisted 12 hr after transfusion. Doubt her acute
   presentation to be due to acute reaction, but should be discussed with
   blood bank.
   - f/u cultures
   - will discuss with outpt team long-term goals/plans for treatment
   .
   # Hypotension: Patient is asymptomatic and current BP's are at her
   baseline (SBP 60-80).  Current BPs unreliable because taken with thigh
   cuff and unable to get a-line.  Pt
s mental status at baseline, can not
   follow UOP since relies on HD.
   - Continue Fludrocort & Midrodine as per home regimen
   - f/u blood cultures
   .
   # ESRD:  On dialysis, s/p cadaveric transplant. rejection at 13, TTS
   schedule, last HD on Sat.
   - Continue scheduled HD on Tues, Thurs, Saturday
   - Continue Sevelamer
   .
   # DVT: Radiographic imaging and physical exam suggestive of extensive
   collaterals. Likely due to partial occlusion of SVC due to multiple
   lines and DVT. Not on any anticoagulation.
   - Will avoid subclavian/IJ central lines
   .
   # Mental illness: hx of anxiety and depression, lives in a group home;
   patient is unable to provide any additional details.
   - Psych to c/s outpt psychiatrist regarding outpt meds: Cymbalta,
   Klonopin, Pimozide, Cogentin, Benztropine
   - Social Work consult, further discussion re: med compliance, warranted
   - will limit psychotropic meds
   .
   # Prophylaxis:
   - SC heparin as DVT prophylaxis
   - Continue home PPI
   - Bowel regimen
   .
   # FEN:
   - Residue free renal diet, although would limit PO intake given
   mental/respiratory status
   .
   # Access: Midline that currently only has one active port, will need to
   determine long-term goals of care to determine what type of access will
   be needed.  Pt has h/o very difficult access complicated by venous
   clots.
   .
   # Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-3-27**] 10:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-03-29 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-28**] events:
   obtained some OSH medical records
   got dialysis
   did sleep study
   echo - The left atrium is normal in size. The right atrial pressure is
   indeterminate. Left ventricular wall thickness, cavity size, and global
   systolic function are normal (LVEF>55%). Due to suboptimal technical
   quality, a focal wall motion abnormality cannot be fully excluded. The
   aortic valve is not well seen. There is no aortic valve stenosis. No
   aortic regurgitation is seen. The mitral valve leaflets are
   structurally normal. No mitral regurgitation is seen. The pulmonary
   artery systolic pressure could not be determined. There is no
   pericardial effusion.
   IMPRESSION: Suboptimal technical quality. Global left ventricular
   function is probably normal, but a focal wall motion abnormality cannot
   be fully excluded. The right ventricle is not well seen. No pathologic
   valvular abnormality seen. Pulmonary artery systolic pressure could not
   be determined.
   given BIPAP overnight
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2147-3-27**] 04:59 AM
   Meropenem - [**2147-3-27**] 05:25 AM
   Metronidazole - [**2147-3-28**] 02:19 AM
   Ciprofloxacin - [**2147-3-28**] 04:29 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-3-29**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 92 (65 - 102) bpm
   BP: 63/28(37) {57/17(28) - 102/43(54)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 78 kg
                  Total In:
                                                                    790 mL
                  PO:
                                                                    490 mL
                  TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,850 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   SpO2: 86%
   ABG: ///34/
   Ve: 4.4 L/min
   Physical Examination
   General: Somnolent and agitated at times
   HEENT: Sclera anicteric, dry MM, oropharynx clear, no evidence of
   conjuntival irritation, no signs of thrush, no oropharynx
   cobblestoning
   Neck: supple, JVP difficult to assess due to habitus, no LAD, engorged
   chest wall veins
   Lungs: wheezes in lower lungs, diffuse coarse crackles
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, tender to deep palpation diffusely, bowel sounds
   present, no rebound tenderness or guarding,
   Ext: Warm, well perfused, no clubbing, cyanosis or edema
   Labs / Radiology
   272 K/uL
   9.0 g/dL
   81 mg/dL
   10.3 mg/dL
   34 mEq/L
   7.0 mEq/L
   44 mg/dL
   91 mEq/L
   136 mEq/L
   29.3 %
   5.9 K/uL
        [image002.jpg]
                             [**2147-3-24**]  03:50 PM
                             [**2147-3-27**]  02:46 AM
                             [**2147-3-27**]  11:04 AM
                             [**2147-3-27**]  03:11 PM
                             [**2147-3-27**]  10:00 PM
                             [**2147-3-27**]  10:11 PM
                             [**2147-3-28**]  01:18 AM
                             [**2147-3-28**]  05:30 AM
                             [**2147-3-28**]  09:50 AM
                             [**2147-3-29**]  05:33 AM
   WBC
   7.3
   9.2
   5.9
   Hct
   30.9
   28.4
   29.3
   Plt
   [**Telephone/Fax (3) 4362**]
   Cr
   8.0
   10.3
   TCO2
   34
   40
   35
   36
   36
   35
   Glucose
   80
   93
   81
   Other labs: PT / PTT / INR:13.3/29.5/1.1, Differential-Neuts:77.0 %,
   Lymph:12.9 %, Mono:6.0 %, Eos:3.7 %, Lactic Acid:0.5 mmol/L, Ca++:9.3
   mg/dL, Mg++:2.3 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   22yo F with asthma COPD with stable hypoxia, ESRD on HD, CVID p/w AMS
   with delirium responsive to HD.
   # Respiratory failure: Hx of COPD, Asthma, and OSA: Hypoxia: Although
   patient responds to narcan, opiate overdose is unlikely given that pt
   only received 1 mg morphine on presentation. Given new fever perhaps
   this could be hypercarbic respiratory failure in the setting of
   pulmonary infection or chemical pneumonitis after emesis earlier during
   the day. Pt likely very hypercarbic at baseline given body habitus and
   obstructive/restrictive lung disease.  Pt hypoventilates even with
   CPAP.   Likely represents pt
s baseline respiratory status. Baseline
   sats 80-90s. Last PFT in [**9-/2146**]; moderate to severe proportionate
   decrease in flows and volumes with a strong bronchodilator response.
   Normal diffusion capacity. Features suggestive of poorly controlled
   asthma associated with obesity related ventillatory restriction.
   - f/u blood and sputum culture
   - Continue [**Name (NI) 4211**], [**Name (NI) 4348**]  (pt has difficulty cooperating with meds)
   - Albuterol PRN
   - pt intermittently refusing CPAP [**3-6**] increased anxiety
   - Will titrate BiPAP for Sleep eval
   .
   # question of seizures -  could be consistent with absence seizures
   clinically. No OSH support this
   -          getting EEG now, will consult neuro if results positive
   # Altered mental status: multifactorial, psych considering delirium
   because of poor orientation. Psych recs to stop
   Cogentin/Pimozide/Cymbalta. Does not appear to be hypercarbic
   respiratory failure. Mental status appears to have improved from
   dialysis. Patient no longer requiring restraints as of [**3-28**] evening.
   -          renal does not want re-dialyze today
   -          Will do LP and will consider CT head.
   .
   # Abdominal pain/Colitis: Followed by GI, unlikely infectious source
   and pt not complaining of abdominal pain.  No diarrhea. CT scan from
   [**8-9**] shows similar findings.
   - d/c ABX today ([**3-28**])
   - continue bowel regimen as tolerated
   .
   # CVID : Patient has been on IVIG therapy in the past but stopped this
   treatment approximately 2 years ago. Recent infusion had to be held as
   pt spiked temperature. Fever could be also due to IVIG transfusion,
   however it persisted 12 hr after transfusion. Doubt her acute
   presentation to be due to acute reaction, but should be discussed with
   blood bank. Supposedly, patient was getting IVIG treatment every other
   week with dialysis.
   - f/u cultures
   - will discuss with outpt team long-term goals/plans for treatment
   .
   # Hypotension: Patient is asymptomatic and current BP's are at her
   baseline (SBP 60-80).  Current BPs unreliable because taken with thigh
   cuff and unable to get a-line.  Pt
s mental status at baseline, can not
   follow UOP since relies on HD.
   - Continue Fludrocort & Midrodine as per home regimen
   - f/u blood cultures
   .
   # ESRD:  On dialysis, s/p cadaveric transplant. rejection at 13, TTS
   schedule, last HD on Sat.
   - Continue scheduled HD on Tues, Thurs, Saturday , renal does not want
   to dialysis on [**3-29**]
   - Continue Sevelamer
   .
   # DVT: Radiographic imaging and physical exam suggestive of extensive
   collaterals. Likely due to partial occlusion of SVC due to multiple
   lines and DVT. Not on any anticoagulation.
   - Will avoid subclavian/IJ central lines
   .
   # Mental illness: hx of anxiety and depression, lives in a group home;
   patient is unable to provide any additional details.
   - Psych to c/s outpt psychiatrist regarding outpt meds: Cymbalta,
   Klonopin, Pimozide, Cogentin, Benztropine
   - Social Work consult, further discussion re: med compliance, warranted
   - will limit psychotropic meds
   .
   # Prophylaxis:
   - SC heparin as DVT prophylaxis
   - Continue home PPI
   - Bowel regimen
   .
   # FEN:
   - Residue free renal diet, although would limit PO intake given
   mental/respiratory status
   .
   # Access: Midline that currently only has one active port, will need to
   determine long-term goals of care to determine what type of access will
   be needed.  Pt has h/o very difficult access complicated by venous
   clots.
   - will readdress access issue [**3-30**]
   .
   # Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-3-27**] 10:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-03-30 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - coughing up a lot of sputum, responding to nebs
   - O2 levels improved, overnight high 90s on NC
   - MS slightly improved - walking/talking, still not at baseline
   - renal plan for HD on [**3-30**], do not think she is uremic
   - EEG pending
   - sleep study
   - psych recommends duloxetine for SSRI if eventually added back on
   because is cleared better than the other choices
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2147-3-28**] 02:19 AM
   Ciprofloxacin - [**2147-3-28**] 04:29 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-3-30**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 83 (71 - 106) bpm
   BP: 66/25(35) {46/21(29) - 100/49(70)} mmHg
   RR: 21 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 78 kg
                  Total In:
                                                                    350 mL
                                                                    200 mL
   PO:
                                                                    350 mL
                                                                    200 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General: Somnolent and agitated at times
   HEENT: Sclera anicteric, dry MM, oropharynx clear, no evidence of
   conjuntival irritation, no signs of thrush, no oropharynx
   cobblestoning
   Neck: supple, JVP difficult to assess due to habitus, no LAD, engorged
   chest wall veins
   Lungs: wheezes in lower lungs, diffuse coarse crackles
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, tender to deep palpation diffusely, bowel sounds
   present, no rebound tenderness or guarding,
   Ext: Warm, well perfused, no clubbing, cyanosis or edema
   Labs / Radiology
   272 K/uL
   9.0 g/dL
   92 mg/dL
   9.2 mg/dL
   32 mEq/L
   4.9 mEq/L
   28 mg/dL
   98 mEq/L
   141 mEq/L
   29.3 %
   5.9 K/uL
        [image002.jpg]
                             [**2147-3-27**]  02:46 AM
                             [**2147-3-27**]  11:04 AM
                             [**2147-3-27**]  03:11 PM
                             [**2147-3-27**]  10:00 PM
                             [**2147-3-27**]  10:11 PM
                             [**2147-3-28**]  01:18 AM
                             [**2147-3-28**]  05:30 AM
                             [**2147-3-28**]  09:50 AM
                             [**2147-3-29**]  05:33 AM
                             [**2147-3-30**]  04:51 AM
   WBC
   7.3
   9.2
   5.9
   Hct
   30.9
   28.4
   29.3
   Plt
   [**Telephone/Fax (3) 4362**]
   Cr
   8.0
   10.3
   6.4
   9.2
   TCO2
   40
   35
   36
   36
   35
   Glucose
   80
   93
   81
   95
   92
   Other labs: PT / PTT / INR:13.0/26.3/1.1, Differential-Neuts:77.0 %,
   Lymph:12.9 %, Mono:6.0 %, Eos:3.7 %, Lactic Acid:0.5 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.4 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   22yo F with asthma COPD with stable hypoxia, ESRD on HD, CVID p/w AMS
   with delirium responsive to HD.
   # Respiratory failure: Hx of COPD, Asthma, and OSA: Hypoxia: Although
   patient responds to narcan, opiate overdose is unlikely given that pt
   only received 1 mg morphine on presentation. Given new fever perhaps
   this could be hypercarbic respiratory failure in the setting of
   pulmonary infection or chemical pneumonitis after emesis earlier during
   the day. Pt likely very hypercarbic at baseline given body habitus and
   obstructive/restrictive lung disease.  Pt hypoventilates even with
   CPAP.   Likely represents pt
s baseline respiratory status. Baseline
   sats 80-90s. Last PFT in [**9-/2146**]; moderate to severe proportionate
   decrease in flows and volumes with a strong bronchodilator response.
   Normal diffusion capacity. Features suggestive of poorly controlled
   asthma associated with obesity related ventillatory restriction.
   - f/u blood and sputum culture
   - Continue [**Name (NI) 4211**], [**Name (NI) 4348**]  (pt has difficulty cooperating with meds)
   - Albuterol PRN
   - pt intermittently refusing CPAP [**3-6**] increased anxiety
   - Will titrate BiPAP for Sleep eval
   .
   # Altered mental status: multifactorial, psych considering delirium
   because of poor orientation. Psych recs to stop Cogentin/Pimozide. Does
   not appear to be hypercarbic respiratory failure. Mental status appears
   to have improved from dialysis. Patient no longer requiring restraints
   as of [**3-28**] evening.  Could be consistent with absence seizures
   clinically. No OSH support this though.
           -     c/s EEG to r/o absence seizures
   -          renal does not want re-dialyze today
   -          Will do LP and will consider CT head.
   .
   # Abdominal pain/Colitis: Followed by GI, unlikely infectious source
   and pt not complaining of abdominal pain.  No diarrhea. CT scan from
   [**8-9**] shows similar findings.
   - d/c ABX ([**3-28**])
   - continue bowel regimen as tolerated
   .
   # CVID : Patient has been on IVIG therapy in the past but stopped this
   treatment approximately 2 years ago. Recent infusion had to be held as
   pt spiked temperature. Fever could be also due to IVIG transfusion,
   however it persisted 12 hr after transfusion. Doubt her acute
   presentation to be due to acute reaction, but should be discussed with
   blood bank. Supposedly, patient was getting IVIG treatment every other
   week with dialysis.
   - f/u cultures
   - will discuss with outpt team long-term goals/plans for treatment
   .
   # Hypotension: Patient is asymptomatic and current BP's are at her
   baseline (SBP 60-80).  Current BPs unreliable because taken with thigh
   cuff and unable to get a-line.  Pt
s mental status at baseline, can not
   follow UOP since relies on HD.
   - Continue Fludrocort & Midrodine as per home regimen
   - f/u blood cultures
   .
   # ESRD:  On dialysis, s/p cadaveric transplant. rejection at 13, TTS
   schedule, last HD on Sat.
   - renal to dialyze today ([**3-30**])
   - Continue scheduled HD on Tues, Thurs, Saturday
   - Continue Sevelamer
   .
   # DVT: Radiographic imaging and physical exam suggestive of extensive
   collaterals. Likely due to partial occlusion of SVC due to multiple
   lines and DVT. Not on any anticoagulation.
   - Will avoid subclavian/IJ central lines
   .
   # Mental illness: hx of anxiety and depression, lives in a group home;
   patient is unable to provide any additional details.
   - Psych to c/s outpt psychiatrist regarding outpt meds: Cymbalta,
   Klonopin, Pimozide, Cogentin, Benztropine
   - Social Work consult, further discussion re: med compliance, warranted
   - will limit psychotropic meds
   .
   # Prophylaxis:
   - SC heparin as DVT prophylaxis
   - Continue home PPI
   - Bowel regimen
   .
   # FEN:
   - Residue free renal diet, although would limit PO intake given
   mental/respiratory status
   .
   # Access: Midline that currently only has one active port, will need to
   determine long-term goals of care to determine what type of access will
   be needed.  Pt has h/o very difficult access complicated by venous
   clots.
   - will readdress access issue [**3-30**]
   .
   # Code status: Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-3-27**] 10:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2147-03-31 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-30**] Events:
   - MS improved, benzos held
   - HD today, 2L removed from HD
   - patient responding well to haldol, still disoriented
   Allergies:
   Oxacillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-3-31**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 90 (61 - 105) bpm
   BP: 81/36(47) {55/23(31) - 96/61(67)} mmHg
   RR: 18 (12 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 78 kg
                  Total In:
                                                                    570 mL
                                                                    880 mL
   PO:
                                                                    570 mL
                                                                    880 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,430 mL
                                                                    880 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///33/
   Physical Examination
   General: Somnolent and agitated at times
   HEENT: Sclera anicteric, dry MM, oropharynx clear, no evidence of
   conjuntival irritation, no signs of thrush, no oropharynx
   cobblestoning
   Neck: supple, JVP difficult to assess due to habitus, no LAD, engorged
   chest wall veins
   Lungs: wheezes in lower lungs, diffuse coarse crackles
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, tender to deep palpation diffusely, bowel sounds
   present, no rebound tenderness or guarding,
   Ext: Warm, well perfused, no clubbing, cyanosis or edema
   Labs / Radiology
   311 K/uL
   8.7 g/dL
   93 mg/dL
   5.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   12 mg/dL
   100 mEq/L
   142 mEq/L
   27.8 %
   8.7 K/uL
        [image002.jpg] cdiff negative
                             [**2147-3-27**]  11:04 AM
                             [**2147-3-27**]  03:11 PM
                             [**2147-3-27**]  10:00 PM
                             [**2147-3-27**]  10:11 PM
                             [**2147-3-28**]  01:18 AM
                             [**2147-3-28**]  05:30 AM
                             [**2147-3-28**]  09:50 AM
                             [**2147-3-29**]  05:33 AM
                             [**2147-3-30**]  04:51 AM
                             [**2147-3-31**]  04:13 AM
   WBC
   7.3
   9.2
   5.9
   7.0
   8.7
   Hct
   30.9
   28.4
   29.3
   25.9
   27.8
   Plt
   [**Telephone/Fax (3) 4396**]76
   311
   Cr
   8.0
   10.3
   6.4
   9.2
   5.5
   TCO2
   35
   36
   36
   35
   Glucose
   80
   93
   81
   95
   92
   93
   Other labs: PT / PTT / INR:13.0/26.3/1.1, Differential-Neuts:77.0 %,
   Lymph:12.9 %, Mono:6.0 %, Eos:3.7 %, Lactic Acid:0.5 mmol/L, Ca++:9.7
   mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   22yo F with asthma COPD with stable hypoxia, ESRD on HD, CVID p/w AMS
   with delirium responsive to HD and holding benzos.
   # Respiratory failure: Hx of COPD, Asthma, and OSA: Hypoxia: Although
   patient responds to narcan, opiate overdose is unlikely given that pt
   only received 1 mg morphine on presentation. Given new fever perhaps
   this could be hypercarbic respiratory failure in the setting of
   pulmonary infection or chemical pneumonitis after emesis earlier during
   the day. Pt likely very hypercarbic at baseline given body habitus and
   obstructive/restrictive lung disease.  Pt hypoventilates even with
   CPAP.   Likely represents pt
s baseline respiratory status. Baseline
   sats 80-90s. Last PFT in [**9-/2146**]; moderate to severe proportionate
   decrease in flows and volumes with a strong bronchodilator response.
   Normal diffusion capacity. Features suggestive of poorly controlled
   asthma associated with obesity related ventillatory restriction.
   Patient has been refusing CPAP.
   - f/u blood culture (NGTD), DFA negative
   - Continue [**Name (NI) 4211**], [**Name (NI) 4348**]  (pt has difficulty cooperating with meds)
   - Albuterol PRN
   .
   # Altered mental status: multifactorial, psych considering delirium
   because of poor orientation. Psych recs to stop Cogentin/Pimozide. Does
   not appear to be hypercarbic respiratory failure. Mental status appears
   to have improved from dialysis. Patient no longer requiring restraints
   as of [**3-28**] evening.  Could be consistent with absence seizures
   clinically. No OSH support this though. EEG did not show any evidence
   of seizures, final read pending.
   no indication for LP (afebrile, no leukocytosis, MS improving)
   -          Psych feels that the patient is in delirium, stopped all
   benzos, on haldol, normal QT interval
   .
   # Abdominal pain/Colitis: Followed by GI, unlikely infectious source
   and pt not complaining of abdominal pain.  No diarrhea. CT scan from
   [**8-9**] shows similar findings. Patient was started cipro, flagyl on [**3-23**]
   and stopped on [**3-28**].
   .
   # CVID : Patient has been on IVIG therapy in the past but stopped this
   treatment approximately 2 years ago. Recent infusion had to be held as
   pt spiked temperature. Fever could be also due to IVIG transfusion,
   however it persisted 12 hr after transfusion. Doubt her acute
   presentation to be due to acute reaction, but should be discussed with
   blood bank. Supposedly, patient was getting IVIG treatment every other
   week with dialysis. Cultures negative to date.
   - will discuss with outpt team long-term goals/plans for treatment
   .
   # Hypotension: Patient is asymptomatic and current BP's are at her
   baseline (SBP 60-80).  Current BPs unreliable because taken with thigh
   cuff and unable to get a-line.  Pt
s mental status at baseline, can not
   follow UOP since relies on HD.
   - Continue Fludrocort & Midrodine as per home regimen
   - give 250cc NS bolus for SBP in 80s
   .
   # ESRD:  On dialysis, s/p cadaveric transplant. rejection at 13, TTS
   schedule, last HD on Sat.
   - renal to dialyze today ([**3-30**])
   - Continue scheduled HD on Tues, Thurs, Saturday
   - Continue Sevelamer
   .
   # DVT: Radiographic imaging and physical exam suggestive of extensive
   collaterals. Likely due to partial occlusion of SVC due to multiple
   lines and DVT. Not on any anticoagulation.
   - Will avoid subclavian/IJ central lines
   .
   # Mental illness: hx of anxiety and depression, lives in a group home;
   patient is unable to provide any additional details.
   - re c/s psych re: outpt psych meds
   - Social Work consult, further discussion re: med compliance, home
   needs
   - will limit psychotropic meds
   .
   # Prophylaxis:
   - SC heparin as DVT prophylaxis
   - Continue home PPI
   - Bowel regimen
   .
   # FEN:
   - Residue free renal diet, although would limit PO intake given
   mental/respiratory status
   .
   # Access: Midline with two active ports
   .
   # Code status: Full code
   .
   # Dispo: case management/social work, call out to floor
   - PT/OT c/s today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2147-3-27**] 10:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: